*Library of custom components
*****************************

*****************************
*Diodes
*****************************
.model Def D()

*----------------------------
*Diode macro model
*connections  |Anode
*             | |Cathode
*             | |
.SUBCKT diode_power 101 102
DX 101 102 def_power_diode
Rsh 101 103 10000
Csh 103 102 0.01uF
.model def_power_diode D(Rs=0.01 CJ0=100pF)
.ENDS

*----------------------------
*Switch model (standalone)
.model switch SW(RON=0.001)

*----------------------------
*Power Switch subcircuit
*connections  |nSp  = Switch positive terminal
*             | |nSn  = Switch negative terminal
*             | | |nVcp = Control/gate terminal
*             | | |
.SUBCKT power_sw nSp nSn nVcp
S1 nSp nDb nVcp 0 bidir_sw
Dblock nDb nSn d_switch
Dbody nSn nSp d_switch
.model bidir_sw SW(RON=0.001)
.model d_switch D()
.ENDS

*----------------------------
*PWM Generator subcircuit
*connections  |nPin  = Duty cycle control input (-1 to +1)
*             | |nPout = PWM output (0 or 1)
*             | | |fs   = Switching frequency Hz (default 10kHz)
*             | | |
.SUBCKT PWMtri nPin nPout fs=10000
Vtri nPtri 0 PULSE(-1 1 0 {0.5/fs} {0.5/fs} 0 {1/fs})
Bout nPout 0 V = ( V(nPin) > V(nPtri) ) ? 1.0 : 0.0
.ENDS
*----------------------------
*Electro-Magnetic Transformer 
*Named inkicad as Transformer1 in Spice library
*pins 1 2 3 4 
.SUBCKT xfmer np np0 ns ns0 Np =1 Ns =1 C = 100uF
xGYp np np0 n1 n10 gy N={Np}
xGYs n2 n10 ns ns0 gy N={Ns}
*if Vc<fsat then {Cper} else {reducing Cper}
Cper n1 n2 c = '(v(n1,n2) < {5}) ? {C} : {(0.99*C*exp(-10*(v(n1,n2))))+0.01*C}'
.ENDS
*----------------------------
*Gyrator subcircuit
*pins 1 2 3 4
*----------------------------
*GY
*       pins 1 2 3 4
.SUBCKT gy np np0 ns ns0 N=1
rp1   np     nrp    0.01
rs1   ns     nrs    0.01
rpmid nrp    nrpmid 0.5
rsmid nrs    nrsmid 0.5
BGp1  nrpmid npmid  V=(-1)*i(vs1)*{N}
BGs1  nrsmid nsmid  V=i(vp1)*{N}
vp1   npmid  np0    0
vs1   nsmid  ns0    0
BHs1  nrs    nrsmid I=(-1)*v(nrp,np0)/{N}
BHp1  nrp    nrpmid I=v(nrs,ns0)/{N}

*below commented lines will be to 
*1% permeance value for adding leakage effets
*Clp  nrp    np0    100nF
*Cls  nrs    ns0    100nF
rsp1  nrp    nrs    100e6
rsm1  np0    ns0    100e6
.ENDS
*----------------------------
*FORWARD Xfm
*pins 1 2 3 4 5 6 

.SUBCKT xfmfor np np0 nd nd0 ns ns0 Np=1 Nd=1 Ns=1 C=100uF
xGYp np np0 n1 n10 gy N={Np}
xGYd n1 n30 nd nd0 gy N={Nd}
xGYs n2 n10 ns ns0 gy N={Ns}
*IF Vc< fsatTHEN {Cper} ELSE{reducing Cper}
Cper n30 n2 c = '(v(n30)-v(n2) < {5})? {C} : {0.99*C*exp(-10*(v(n30)-v(n2)))+0.01*C}'
.ENDS
*-----------------------------
*Push Pull xfm Transformer3
*pin 1 2 3 4 5 6 
.SUBCKT xfmpush np npc np0 ns nsc ns0 Np=1 Ns=1 C=100uF
xGYp1 np npc n1 n10 gy N={Np}
xGYp2 npc np0 n10 n2 gy N={Np}
xGYs1 n3 n30 ns nsc gy N={Ns}
xGYs2 n30 n2 nsc ns0 gy N={Ns}
*IF Vc< fsatTHEN {Cper} ELSE{reducing Cper}
Cper n1 n3 c = '(v(n1)-v(n3) < {5})? {C} : {0.99*C*exp(-10*(v(n1)-v(n3)))+0.01*C}'
.ENDS
*-----------------------------
*PWM bridge subcircuit -claude code
*saved as : PWM_Bridge
*----------------------------
* H-Bridge PWM Generator
* connections |nPin   = Modulating signal input (-1 to +1)
*             | |nArm1T = Arm 1 Top gate
*             | | |nArm1B = Arm 1 Bottom gate
*             | | | |nArm2T = Arm 2 Top gate
*             | | | | |nArm2B = Arm 2 Bottom gate
*             | | | | | |fs = switching frequency (default 10kHz)
*             | | | | | |
.SUBCKT PWMbridge nPin nArm1T nArm1B nArm2T nArm2B params: fs=10000

* Triangular carrier generator (-1 to +1)
atri1 nPin nPtri1 triout1
.model triout1 triangle(
+    cntl_array=[ 0        1      ]
+    freq_array=[ {fs}     {fs}   ]
+    out_low   = -1.0
+    out_high  =  1.0
+    duty_cycle = 0.5 )

* Invert modulating signal for leg 2
ainv nPin nPinv amp
.model amp gain(gain=-1.0)

* Comparators:
* compare1: nPin - nPtri1  → positive leg (Arm1T, Arm2B)
* compare2: nPtri1 - nPinv → negative leg (Arm1B, Arm2T)
acompare1 [nPin   nPtri1] ncout1 comp_sum
acompare2 [nPtri1 nPinv ] ncout2 comp_sum
.model comp_sum summer(in_gain=[1.0 -1.0])

* Limit comparator output to 0 or 1 (PWM signal)
alim1 ncout1 nArm1T limit_comp
alim2 ncout2 nArm1B limit_comp
alim3 ncout2 nArm2T limit_comp
alim4 ncout1 nArm2B limit_comp
.model limit_comp limit(
+    gain            = 1e6
+    out_lower_limit = 0.0
+    out_upper_limit = 1.0
+    fraction        = FALSE )

.ENDS
*-----------------------------
